US04264616
1. Preparation of 2-Amino-5-trifluoromethyl-1,3,4-thiadiazole
A three-liter reaction flask fitted with a mechanical stirrer, heating mantle, dropping funnel, thermometer and water-cooled condenser connected to a caustic trap was charged with 228 g (2.5 mole) of thiosemicarbazide, 1260 ml of 1,4-dioxane and 285.1 g (2.5 mole, 193 ml) of trifluoroacetic acid. The dropping funnel contained 383.8 g (2.5 mole, 229 ml) of phosphorus oxychloride which was added to the reaction flask over a period of 30 minutes. The resulting thick slurry was heated slowly to reflux with rapid evolution of hydrogen chloride gas. The slurry thinned with separation of the product as a heavy syrup. Total reflux time required about four hours until the gas evolution ceased. The dioxane was decanted and then 1700 ml of water was added to the residue. The mixture was cooled to 20° C. and made basic with 50% sodium hydroxide (~225 ml) to pH 9. The slurry was cooled to 10° C. and collected on a filter funnel. The cake was washed with cold water and dried in the oven. There was obtained 305 g, Mp 219°-220.5°, yield 72.1%. The proton NMR recorded in Me2SO-d6 consisted of a peak at 7.9∂ (NH2) with respect to tetramethylsilane.

reactant | thiosemicarbazide | 2.5 mole, 228 g | NNC(=S)N | CH5N3S
reactant | trifluoroacetic acid | 2.5 mole, 193 ml, 285.1 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | phosphorus oxychloride | 2.5 mole, 229 ml, 383.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 1260 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-Amino-5-trifluoromethyl-1,3,4-thiadiazole | yield 72.1% | NC=1SC(=NN1)C(F)(F)F | C3H2F3N3S
